US05496843
2) 4-Azidomethyl-2-tert-butoxycarbonylmethoxynitrobenzene
A mixture of 3-tert-butoxycarbonylmethoxy-4-nitrotoluene (36.1. g, 120 mmol), N-bromosuccinimide (21.3 g, 120 mmol), and benzoyl peroxide (4 g) in carbon tetrachloride (500 mL) was refluxed for 18 h. The insoluble material formed was removed by filtration and the filtrate was concentrated. The residue was dissolved in DMF (10 mL) and sodium azide (5.2 g, 80 mmol) was added. The mixture was stirred for 2 h at 50° C., poured into brine, and extracted with a 1:1 mixture of toluene and ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 9:1 to 7:3 hexane/ethyl acetate to give 13.4 g of the title compound (36%): 1H NMR (CDCl3) δ7.89 (d, 1H, J=8.3 Hz), 7.01 (dd, 1H, J=8.3, 1.7 Hz), 6.93 (d, 1H, J= 1.7 Hz), 4.70 (s, 2H), 4.43 (s, 2H), 1.48 (s, 9H).

reactant | 3-tert-butoxycarbonylmethoxy-4-nitrotoluene | 120 mmol | C(C)(C)(C)OC(=O)COC=1C=C(C=CC1[N+](=O)[O-])C | C13H17NO5
reactant | N-bromosuccinimide | 120 mmol, 21.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium azide | 80 mmol, 5.2 g | [N-]=[N+]=[N-].[Na+]
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | brine | [Cl-].[Na+].O
product | 4-Azidomethyl-2-tert-butoxycarbonylmethoxynitrobenzene | 13.4 g, 36% | N(=[N+]=[N-])CC1=CC(=C(C=C1)[N+](=O)[O-])OCC(=O)OC(C)(C)C | C13H16N4O5
